US07807709B2
e. 4-Ethyl-3-(3-methoxy-propoxy)-benzoic acid
To a solution of 4-ethynyl-3-(3-methoxy-propoxy)-benzoic acid (1 g, 4.11 mmol) in EtOH (20 mL), Pd(OH)2 (0.1 g) is added. The resulting mixture is stirred under an hydrogen atmosphere for 15 min, then filtered and concentrated. The crude material is purified by flash chromatography on silica gel (eluent: hexane/AcOEt 2:1) to give the title compound as white powder. 1H-NMR (CDCl3, 300 MHz): δ=1.2 (t, 3H), 2.15 (p, 2H), 2.7 (q, 2H), 3.38 (s, 3H), 3.62 (t, 2H), 4.15 (t, 2H), 7.25 (d, 1H), 7.55 (s, 1H), 7.68 (d, 1H) ppm.

reactant | 4-ethynyl-3-(3-methoxy-propoxy)-benzoic acid | 4.11 mmol, 1 g | C(#C)C1=C(C=C(C(=O)O)C=C1)OCCCOC | C13H14O4
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 0.1 g | [OH-].[OH-].[Pd+2]
product | 4-Ethyl-3-(3-methoxy-propoxy)-benzoic acid | C(C)C1=C(C=C(C(=O)O)C=C1)OCCCOC | C13H18O4
